US04440779
To a stirred, cooled (0° C.) solution of diisopropylamine (12.5 g, 0.124 m) in dry tetrahydrofuran (40 ml) under a nitrogen atmosphere is added N-butyllithium (0.124 m) and the solution stirred for 10 minutes followed by cooling to -78° C. A mixture of 7-chloro-1,2-dimethyl-4,10-dihydro-10-oxo-1H[1]benzoxepino[4,3-b]pyrrole (31.3 g, 0.12 m), dimethylcarbonate (11.7 g, 0.13 m) and tetrahydrofuran (50 ml) is then added dropwise over 10 min. The bath is then removed and the mixture allowed to warm to room temperature and is stirred for four hours. Water (50 ml) is added and the reaction mixture is further stirred overnight. Aqueous sodium hydroxide is then added and the mixture is filtered. The filtrate is acidified to yield 7-chloro-4,10-dihydro-1-methyl-10-oxo-1H[1]benzoxepino[4,3-b]pyrrole-2-acetic acid.

reactant | diisopropylamine | 12.5 g | C(C)(C)NC(C)C | C6H15N
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | 7-chloro-1,2-dimethyl-4,10-dihydro-10-oxo-1H[1]benzoxepino[4,3-b]pyrrole | 31.3 g | ClC1=CC2=C(C(C=3N(C(=CC3CO2)C)C)=O)C=C1 | C14H12ClNO2
reactant | dimethylcarbonate | 11.7 g | COC(OC)=O | C3H6O3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-chloro-4,10-dihydro-1-methyl-10-oxo-1H[1]benzoxepino[4,3-b]pyrrole-2-acetic acid | ClC1=CC2=C(C(C=3N(C(=CC3CO2)CC(=O)O)C)=O)C=C1 | C15H12ClNO4
